US07498337B2
4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde
A suspension of 5-bromo-4-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde (1.78 g), phenylboronic acid (1.37 g), dichloro[bis(triphenylphosphine)]palladium (0.19 g) and sodium carbonate (1.72 g) in 1,2-dimethoxyethane (30 mL)-water (10 mL) was stirred at 100° C. for 1 hr. 8 mol/L aqueous sodium hydroxide solution (15 mL) was added, and the mixture was stirred at 90° C. for 3 hr. After cooling, the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→1:1), and the obtained solid was washed with hexane to give the title compound as a pale-yellow solid (yield 815 mg, 69%).

reactant | 5-bromo-4-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | 1.78 g | BrC1=C(C(=CN1S(=O)(=O)C1=CC=CC=C1)C=O)C | C12H10BrNO3S
reactant | phenylboronic acid | 1.37 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 1.72 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 8 mol/L, 15 mL | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
product | 4-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde | yield 815 mg, 69% | CC=1C(=CNC1C1=CC=CC=C1)C=O | C12H11NO
